US07169761B2
Triphenylphosphine (0.66 g) was added to a solution of (6-isopropylazulen-2-yl)methanol (0.5 g) in carbon tetrachloride (10.0 ml) and the mixture was refluxed with heating for 15 hours. The reaction mixture was concentrated. The residue was purified by silica gel column chromatography (n-hexane-diethyl ether) to obtain 2-(chloromethyl)-6-isopropylazulene (0.38 g).

reactant | Triphenylphosphine | 0.66 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (6-isopropylazulen-2-yl)methanol | 0.5 g | C(C)(C)C=1C=CC2=CC(=CC2=CC1)CO | C14H16O
reactant | carbon tetrachloride | 10.0 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(chloromethyl)-6-isopropylazulene | 0.38 g | ClCC1=CC2=CC=C(C=CC2=C1)C(C)C | C14H15Cl
